US05275816
(a) 1-(t-Butyloxycarbonylamino)-4-pyridone
4-Pyranone (1 g, 10.4 mmol) and t-butylcarbazate (1.32 g, 10 mmol) were heated at reflux in ethanol for 48 h. The solvent was gradually allowed to distil from the mixture and the residue was chromatographed on silica gel 60, eluting with ethanol, dichloromethane (1:19) to give the title compound (1.16 g, 50%); υmax (KBr) 1723, 1630, and 1550 cm-1 ; δH 1.54 (9H, s), 6.47 (2H, d), and 7.60 (2H, d); M+ 210.

reactant | 4-Pyranone | 10.4 mmol, 1 g | O1C=CC(C=C1)=O | C5H4O2
reactant | t-butylcarbazate | 10 mmol, 1.32 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(t-Butyloxycarbonylamino)-4-pyridone | 1.16 g, 50% | C(C)(C)(C)OC(=O)NN1C=CC(C=C1)=O | C10H14N2O3
